US07973037B2
Synthesis of N1-(1-cyanocyclopropyl)-N-{(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}-L-norvalinamide
A mixture of N2-[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(1-cyanocyclopropyl)-L-norvalinamide (6.46 g, 15.44 mmol), 4-methanesulfonylphenyl-boronic acid (3.40 g, 16.98 mmol), and 2M K2CO3 (19.3 mL) was dissolved in DMF (75 mL) in a thick-walled flask. The reaction mixture was degassed, and [1,1′-bis(diphenyl-phosphino)ferrocene]dichloropalladium(II), dichloromethane complex (0.678 g, 0.926 mmol) was added. The flask was sealed, heated at 80-85° C. for 3 hours, cooled, and diluted with ethyl acetate (300 mL). The solution was washed with 1:1 water/brine (200 mL), brine (200 mL), filtered through a three-layered plug of silica (bottom) DARCO, and MgSO4 (top), concentrated in vacuo, and purified on a plug of silica gel (50-70% ethyl acetate/hexane elution). The product was then further purified by recrystallization from ethyl acetate/hexanes to yield the title compound.

reactant | N2-[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(1-cyanocyclopropyl)-L-norvalinamide | 15.44 mmol, 6.46 g | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@@H](CCC)C(=O)NC1(CC1)C#N | C17H19BrF3N3O
reactant | 4-methanesulfonylphenyl-boronic acid | 16.98 mmol, 3.40 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | K2CO3 | 2M, 19.3 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | N1-(1-cyanocyclopropyl)-N-{(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}-L-norvalinamide | C(#N)C1(CC1)N(C([C@@H](N)CCC)=O)[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H26F3N3O3S
